US05686445
9-Chloro-5H-dibenz[b,e]azepin-6,11-dione
A mixture of 11.15 g of 5H-dibenz[b,e]azepin-6,11-dione and 600 ml of glacial acetic acid is heated on a steam bath until the solid dissolves. To the solution (70° C.) is added chlorine gas chlorine is bubbled through the solution until a precipitate begins to form. The mixture is allowed to cool to room temperature and is filtered to give 7.3 g of product, m.p. 290° C. to 295° C.

reactant | 5H-dibenz[b,e]azepin-6,11-dione | 11.15 g | C1=CC=CC=2NC(C3=C(C(C21)=O)C=CC=C3)=O | C14H9NO2
reactant | chlorine | ClCl | Cl2
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 9-Chloro-5H-dibenz[b,e]azepin-6,11-dione | 7.3 g | ClC=1C=CC2=C(C(C3=C(NC2=O)C=CC=C3)=O)C1 | C14H8ClNO2
